US05459137
1-[4-(N,N-dimethylglycylamino)phenyl]-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine
After adding 0.66 g (8.12 mmol) of dimethylamine hydrochloride and 1.86 ml (13.4 mmol) of triethylamine to a suspension of 1.5 g (4.06 mmol) of 1-(4-chloroacetyl-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine in 60 ml of ethanol, the reaction mixture was refluxed for 8 hours, then evaporated. The residue was dissolved in 30 ml of dichloromethane, washed with 20 ml of 4% NaOH solution, then 2×20 ml of distilled water, dried and evaporated under reduced pressure. After treating with water, the crystalline residue was filtered to give 1.27 g of raw product, m.p. 211°-213° C. After recrystallization from 10 ml of ethanol 1.1 g (71.4%) of aimed product were obtained, m.p.: 213°-215° C.

reactant | dimethylamine hydrochloride | 8.12 mmol, 0.66 g | Cl.CNC
reactant | triethylamine | 13.4 mmol, 1.86 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(4-chloroacetyl-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 4.06 mmol, 1.5 g | ClCC(=O)C1=CC(=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C)N | C19H16ClN3O3
reactant | ethanol | 60 ml | C(C)O | C2H6O
product | 1-[4-(N,N-dimethylglycylamino)phenyl]-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 1.27 g | CN(CC(=O)NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C)C | C21H22N4O3
